US08735425B2
(61a) 4-ethoxy-1-fluoro-2-nitro-benzene
To a DMF (10 mL) solution of 4-fluoro-3-nitro-phenol (628 mg), sodium hydride (purity: 55% or higher, 209 mg) was added in small portions at room temperature. After 30 minutes, ethyl iodide (0.38 mL) was added thereto at room temperature. After 2 hours, the reaction mixture was diluted with ethyl acetate, washed with saturated sodium bicarbonate and saturated brine, then dried over sodium sulfate, and then concentrated. The residue was purified by column chromatography (hexane/ethyl acetate) to obtain the title compound (685 mg, 93%) as a yellow solid.

reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
reactant | 4-fluoro-3-nitro-phenol | 628 mg | FC1=C(C=C(C=C1)O)[N+](=O)[O-] | C6H4FNO3
reactant | sodium hydride | 209 mg | [H-].[Na+]
reactant | ethyl iodide | 0.38 mL | C(C)I | C2H5I
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-ethoxy-1-fluoro-2-nitro-benzene | 685 mg, 93% | C(C)OC1=CC(=C(C=C1)F)[N+](=O)[O-] | C8H8FNO3
